US04079146
Trimethylammonium Zinc Ethylene-bis-dithiocarbamic acid-Dimethyldithiocarbamic acid
A 100 ml. aqueous solution of 6.95g. (0.05 mole) of zinc chloride is added dropwise to a 3-necked flask containing 50 ml. of water. After 5-10 ml. of the solution has been added, a combined 100 ml. aqueous solution of 6.5g. (0.025 mole) of sodium ethylene-bis-dithiocarbamate, 8.95g. (0.05 mole) of sodium dimethyldithiocarbamate and 9.6g. (0.1 mole) of trimethylamine hydrochloride is added to the flask at the same rate as that of the metal salt solution. After the addition, the suspension is stirred 0.5 hour then filtered under vacuum, reslurried with water and filtered again. The collected precipitate is air-dried overnight then dried under vacuum at 45° until it reaches a constant weight. A total of 14.6g. of product, mp 134°-137° C is obtained.

reactant | zinc chloride | 0.05 mole | [Cl-].[Zn+2].[Cl-]
reactant | sodium ethylene-bis-dithiocarbamate | 0.025 mole | C(CNC([S-])=S)NC([S-])=S.[Na+].[Na+]
reactant | sodium dimethyldithiocarbamate | 0.05 mole | CN(C([S-])=S)C.[Na+]
reactant | trimethylamine hydrochloride | 0.1 mole | Cl.CN(C)C
solvent | water | O | H2O
product | Trimethylammonium Zinc Ethylene-bis-dithiocarbamic acid Dimethyldithiocarbamic acid | C(CNC(S)=S)NC(S)=S.[Zn+2].C[NH+](C)C.CN(C(S)=S)C | InChI=1S/C4H8N2S4.C3H7NS2.C3H9N.Zn/c7-3(8)5-1-2-6-4(9)10;1-4(2)3(5)6;1-4(2)3;/h1-2H2,(H2,5,7,8)(H2,6,9,10);1-2H3,(H,5,6);1-3H3;/q;;;+2/p+1
